US04237160
3-Hydroxymethyl-8-methoxy-dibenzo[b,f]thiepin-5,5-dioxide
Repeat the process of Example 6, substituting an equivalent quantity of 8-methoxy-dibenzo[b,f]thiepin-3-carboxylic acid 5,5-dioxide for the dibenzo[b,f]thiepin3-carboxylic acid 5,5-dioxide, to obtain the title product.

reactant | 8-methoxy-dibenzo[b,f]thiepin-3-carboxylic acid 5,5-dioxide | COC=1C=CC2=C(C=CC3=C(S2(=O)=O)C=C(C=C3)C(=O)O)C1 | C16H12O5S
reactant | dibenzo[b,f]thiepin3-carboxylic acid 5,5-dioxide | C1=CC(=CC=2S(C3=C(C=CC21)C=CC=C3)(=O)=O)C(=O)O | C15H10O4S
product | 3-Hydroxymethyl-8-methoxy-dibenzo[b,f]thiepin-5,5-dioxide | OCC=1C=CC2=C(S(C3=C(C=C2)C=C(C=C3)OC)(=O)=O)C1 | C16H14O4S
